US04906285
Preparation of tris(2 hydroxyethyl)ammonium 2,6-bis[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoate (Compound No. 19)
2,6-bis[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoic acid (2.0 g) and triethanolamine (0.7 g) were dissolved in 30 ml of THF, and the solution was stirred at room temperature for 12 hours.

reactant | 2,6-bis[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoic acid | 2.0 g | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)O)C(=CC=C1)OC1=NC(=CC(=N1)OC)OC | C19H18N4O8
reactant | triethanolamine | 0.7 g | N(CCO)(CCO)CCO | C6H15NO3
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | tris(2 hydroxyethyl)ammonium 2,6-bis[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoate | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)[O-])C(=CC=C1)OC1=NC(=CC(=N1)OC)OC.OCC[NH+](CCO)CCO | InChI=1S/C19H18N4O8.C6H15NO3/c1-26-12-8-13(27-2)21-18(20-12)30-10-6-5-7-11(16(10)17(24)25)31-19-22-14(28-3)9-15(23-19)29-4;8-4-1-7(2-5-9)3-6-10/h5-9H,1-4H3,(H,24,25);8-10H,1-6H2
